US04604390
N-[2-(Acetyloxy)ethyl]-N-[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-yl)ethyl]acetamide
A mixture of 1.0 g (0.0025 mol) of 2-[[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)-ethyl]amino]ethanol and 0.5 g (0.0053 mol) of sodium acetate in 50 ml of Ac2O was stirred at 25° C. for 24 hours and poured into 500 ml of H2O. The precipitate that accumulated was collected and dried to give 1.0 g of product, mp 113°-116° C.

reactant | 2-[[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)-ethyl]amino]ethanol | 0.0025 mol, 1.0 g | [N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCNCCO)C1=C(S2)C=CC=C1 | C17H16N4O3S
reactant | sodium acetate | 0.0053 mol, 0.5 g | C(C)(=O)[O-].[Na+]
reactant | H2O | 500 ml | O | H2O
reactant | Ac2O | 50 ml | CC(=O)OC(=O)C | C4H6O3
product | N-[2-(Acetyloxy)ethyl]-N-[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-yl)ethyl]acetamide | 1.0 g | C(C)(=O)OCCN(C(C)=O)CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])SC1=C2C=CC=C1 | C21H20N4O5S
